US07932256B2
To a solution of 2-(difluoromethoxy)-3,6-dimethyl-5-nitropyridine (33.4 g, 153 mmol) in methylene chloride (100 mL) and ethanol (600 mL) was added 10% palladium on charcoal (3.3 g). The resulting suspension was hydrogenated on a Parr device at 40 psi 12 for 1 h. TLC was used to monitor the reaction. Additional 3.3 g of palladium on charcoal were added hourly until no starting material remained. A total of 13.2 g of Pd/C was added. The reaction mixture was kept under an H2 atmosphere for 2 h after the last addition of catalyst. The reaction mixture was filtered through Celite and sand and the collected solids were washed with ethyl acetate (2×100 mL). The filtrate was concentrated in vacuo to give a grey oil, which was purified by column chromatography on silica gel (35%→50% ethyl acetate in hexanes) to furnish 6-(difluoromethoxy)-2,5-dimethylpyridin-3-amine (25.7 g, 89% yield) as a pale yellow oil which solidified upon cooling in a refrigerator. The product was recrystallized from hexanes below 0° C. to afford white needles: mp 40-42° C.; 1H NMR (400 MHz, CDCl3) δ 7.35 (t, J=74.0 Hz, 1H), 6.84 (s, 1H), 2.27 (s, 3H), 2.15 (s, 3H); LRMS (ESI) m/e 189.2 [(M+H)+, calcd for C8H11N2OF2 189.1]. Anal calcd. for C8H10N2OF2: C, 51.12, H, 5.38, N, 14.86. Found: C, 51.17, H, 5.29, N, 14.87.

reactant | 2-(difluoromethoxy)-3,6-dimethyl-5-nitropyridine | 153 mmol, 33.4 g | FC(OC1=NC(=C(C=C1C)[N+](=O)[O-])C)F | C8H8F2N2O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 600 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 3.3 g | [Pd] | Pd
catalyst | palladium on charcoal | 3.3 g | [Pd] | Pd
catalyst | Pd/C | 13.2 g | [Pd] | Pd
product | 6-(difluoromethoxy)-2,5-dimethylpyridin-3-amine | 25.7 g, 89% yield | FC(OC1=C(C=C(C(=N1)C)N)C)F | C8H10F2N2O
